US07345178B2
4-[3-(2-Nitro-phenyl)-imidazo[2,1-b]thiazol-6-ylmethyl]-piperazine-1-carboxylic acid tert-butyl ester (320 mg, 0.73. mmol) was mixed with 20 mL of MeOH and 5 mL of water containing sodium hydrosulfide hydrate (244 mg, 6 eq). The reaction mixture was stirred under reflux for 4 hours. It was then cooled to room temperature and concentrated. The aqueous layer was extracted with CH2Cl2. The combined organic layers were dried (Na2SO4) and concentrated to afford 280 mg of 4-[3-(2-amino-phenyl)-imidazo[2,1-b]thiazol-6-ylmethyl]-piperazine-1-carboxylic acid tert-butyl ester (92% yield).

reactant | 4-[3-(2-Nitro-phenyl)-imidazo[2,1-b]thiazol-6-ylmethyl]-piperazine-1-carboxylic acid tert-butyl ester | 320 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)CC=1N=C2SC=C(N2C1)C1=C(C=CC=C1)[N+](=O)[O-] | C21H25N5O4S
reactant | MeOH | 20 mL | CO | CH4O
reactant | sodium hydrosulfide hydrate | 244 mg, 6 eq | O.[SH-].[Na+]
solvent | water | 5 mL | O | H2O
product | 4-[3-(2-amino-phenyl)-imidazo[2,1-b]thiazol-6-ylmethyl]-piperazine-1-carboxylic acid tert-butyl ester | 280 mg, 92% yield | C(C)(C)(C)OC(=O)N1CCN(CC1)CC=1N=C2SC=C(N2C1)C1=C(C=CC=C1)N | C21H27N5O2S
